US06030975
4-Methoxy-2-methylthio-6,7-dihydro-5H-cyclopentapyrimidine
18.05 g (90 mmol) of 4-chloro-2-methylthio-6,7-dihydro-5H-cyclopentapyrimidine were dissolved in 200 ml of methanol. At 45° C., 16.7 g of sodium methoxide (as 30% strength solution in methanol) were added dropwise, and the mixture was stirred for 2 hours. The solution was evaporated, taken up in ethyl acetate and acidified with dilute hydrochloric acid, and the ethyl acetate extract was evaporated. 15.5 g of an oil remained.

reactant | 4-chloro-2-methylthio-6,7-dihydro-5H-cyclopentapyrimidine | 90 mmol, 18.05 g | ClC1=NC(=NC2=C1CCC2)SC | C8H9ClN2S
reactant | sodium methoxide | 16.7 g | C[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 4-Methoxy-2-methylthio-6,7-dihydro-5H-cyclopentapyrimidine | COC1=NC(=NC2=C1CCC2)SC | C9H12N2OS
